US04618616
1-(1H-1,2,4-triazol-1-yl)cyclopropyl 4-fluorophenyl ketone
To a solution of 2-(1H-1,2,4-triazol-1-yl)-4'-fluoroacetophenone (10.24 g, 50 mMole) in methylene chloride (70 ml) was added 18-Crown-6 ether (1 g) (trade mark for 1,4,7,10,13,16-hexaoxacyclooctadecane) and potassium hydroxide (6.1 g, 109 mMole) with stirring. Ten minutes later 1,2-dibromoethane was added (10.3 g, 55 mMole in one batch. Stirring was continued for 18 hours. The mixture was poured into saturated saline solution (100 ml) and the organic phase was separated, washed with water (3×30 ml) and dried over anhydrous magnesium sulphate. Evaporation gave an oil, weight 13.7 g. Purification was carried out by flash column chromatography under slight pressure (2 p.s.i.) on a Merck "Kieselgel 60" (trade mark) 230-400 mesh fractions after collection and evaporation gave a solid, the pure title compound, 2.9 g, m.p. 73°-75° (25% yield).

reactant | 2-(1H-1,2,4-triazol-1-yl)-4'-fluoroacetophenone | 50 mMole, 10.24 g | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)F | C10H8FN3O
reactant | 18-Crown-6 ether | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium hydroxide | 109 mMole, 6.1 g | [OH-].[K+]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-(1H-1,2,4-triazol-1-yl)cyclopropyl 4-fluorophenyl ketone | 25% yield | FC1=CC=C(C=C1)C(=O)C1(CC1)N1N=CN=C1 | C12H10FN3O
